US09169259B2
A suspension of 6-chloro-N-(5,6-dimethoxypyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (200 mg, 0.65 mmol) and methyl piperidine-3-carboxylate (400 mg, 2.8 mmol) was heated at 160° C. for 2 h under N2. After cooling to room temperature, the residue was purified by chromatography (silica gel, 200-300 mesh, dichloromethane:MeOH=20:1) to give 1-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)piperidine-3-carboxylic acid (40 mg, 15%) as a red solid. LC-MS: 399 [M+1]+, tR=1.261 min.

reactant | 6-chloro-N-(5,6-dimethoxypyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.65 mmol, 200 mg | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=C(C=C2)OC)OC | C13H12ClN5O2
reactant | methyl piperidine-3-carboxylate | 2.8 mmol, 400 mg | N1CC(CCC1)C(=O)OC | C7H13NO2
product | 1-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)piperidine-3-carboxylic acid | 40 mg, 15% | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)N1CC(CCC1)C(=O)O)C=CN2 | C19H22N6O4
